US06610723B2
5-(3,4-Dimethyl-phenyl)-2-methyl-3-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride (1:1)
The title compound, MS: m/e=292.2 (M+H+) was obtained as a beige solid (77% yield) by the reaction of 3-chloromethyl-5-(3,4-dimethyl-phenyl)-2-methyl-pyridine hydrochloride (1:1) with 2-methylimidazole (5 eq.), using sodium hydride (3 eq.) as base followed by formation of the hydrochloride salt.

reactant | 3-chloromethyl-5-(3,4-dimethyl-phenyl)-2-methyl-pyridine hydrochloride | Cl.ClCC=1C(=NC=C(C1)C1=CC(=C(C=C1)C)C)C
reactant | 2-methylimidazole | 5 eq. | CC=1NC=CN1 | C4H6N2
product | 5-(3,4-Dimethyl-phenyl)-2-methyl-3-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride | Cl.CC=1C=C(C=CC1C)C=1C=C(C(=NC1)C)CN1C(=NC=C1)C | InChI=1S/C19H21N3.ClH/c1-13-5-6-17(9-14(13)2)18-10-19(15(3)21-11-18)12-22-8-7-20-16(22)4;/h5-11H,12H2,1-4H3;1H
